US05621133
Step 7: 6,7-Dihydroxy-4-phenyl-2,3,4,5-tetrahydro-1H-benz[e]isoindole Formic Acid Salt
A suspension of 54.5 mg (0.159 mmol) of 6,7-dimethoxy-4-phenyl-2,3,4,5-tetrahydro-1H-benz[e]isoindole hydrochloride, from Step 6, in 2 mL of methylene chloride was cooled to -78° C. and 0.64 mL of a 1M solution of boron tribromide in methylene chloride was added. The reaction was warmed to ambient temperature for 1 h and cooled to -78° C. before 1 mL of methanol was added. After warming to ambient temperature for 1 h, the solvents were removed in vacuo. Additional methanol (5 mL) was added and removed in vacuo. The product was chromatographed on silica gel eluted with ethyl acetate/formic acid/water (18:1:1) to give 29.8 mg (58% yield) of the title compound as an off-white powder, m.p. 144° C.; MS DCI: 279 (M+H)+ ; 1H NMR (d6 -DMSO) δ: 2.95-3.15 (m, 2H), 3.6-3.9 (m, 3H), 4.1-4.3 (m, 2H), 6.43 (d, 1H, J=7.5 Hz), 6.62 (d, 1H, J=7.5 Hz), 7.1-7.3 (m, 5H), 8.3 (s, 1H).

reactant | 6,7-dimethoxy-4-phenyl-2,3,4,5-tetrahydro-1H-benz[e]isoindole hydrochloride | 0.159 mmol, 54.5 mg | Cl.COC1=C(C=CC=2C=3CNCC3C(CC21)C2=CC=CC=C2)OC
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | methanol | 1 mL | CO | CH4O
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 6,7-Dihydroxy-4-phenyl-2,3,4,5-tetrahydro-1H-benz[e]isoindole Formic Acid Salt | 29.8 mg, 58% yield | C(=O)O.OC1=C(C=CC=2C=3CNCC3C(CC21)C2=CC=CC=C2)O | InChI=1S/C18H17NO2.CH2O2/c20-17-7-6-12-14(18(17)21)8-13(11-4-2-1-3-5-11)16-10-19-9-15(12)16;2-1-3/h1-7,13,19-21H,8-10H2;1H,(H,2,3)
